US03933906
The starting material is prepared as follows: The mixture of 4-(4-acetamidophenylamino)-3-amino-5-(2-acetamidophenylsulfamoyl)-benzoic acid, 60 ml of diethyleneglycol diethyl ether and 30 ml of furfural is heated to 110° for 4 hours and evaporated under reduced pressure. The residue is taken up in 100 ml of anhydrous ethanol, the solution cooled with an ice bath and 4.5 g of sodium borohydride are added portionwise while stiring. After one hour the ice bath is removed and the mixture stirred overnight at room temperature. Thereupon 2.25 g of sodium borohydride are added, the mixture stirred for 90 minutes and diluted with 150 ml of water. It is filtered, the filtrate concentrated and the concentrate strongly acidified with hydrochloric acid. The precipitate formed is collected and recrystallized twice from 50% aqueous ethanol, to yield the 4-(4-acetamidophenylamino)-3-furfurylamino-5-(2-acetamidophenylsulfamoyl)-benzoic acid melting at 258° with decomposition. [Analogously the 5-(4-acetamidophenylsulfamoyl)-isomer is prepared m.p. 266° (dec.)].

reactant | 4-(4-acetamidophenylamino)-3-amino-5-(2-acetamidophenylsulfamoyl)-benzoic acid | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(NC1=C(C=CC=C1)NC(C)=O)(=O)=O)N | C23H23N5O6S
reactant | furfural | 30 ml | C(C1=CC=CO1)=O | C5H4O2
solvent | diethyleneglycol diethyl ether | 60 ml | C(C)OCCOCCOCC | C8H18O3
product | 4-(4-acetamidophenylamino)-3-furfurylamino-5-(2-acetamidophenylsulfamoyl)-benzoic acid | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(NC1=C(C=CC=C1)NC(C)=O)(=O)=O)NCC1=CC=CO1 | C28H27N5O7S
